US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(4-piperidinobutyloxy)phenyl]thiochroman hydrochloride
To methanol solution (3 ml) of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(4-piperidinobutyloxy)phenyl]thiochroman (18 mg, 0.093 mmol) was added aqueous 20% HCl solution (0.3 ml) and the resulting mixture was stirred for 20 hours. The reaction solution was distilled under reduced pressure to remove the solvent and the crude product thus produced was dissolved in methanol. To the resulting solution was added Dowex 1-×8 (240 mg) and the mixture was stirred for 30 minutes. Dowex 1-×8 was filtered off and the filtrate was then distilled under reduced pressure to remove the solvent. To the residue were added toluene (0.5 ml), methanol (0.5 ml) and 35% HCl (0.5 ml) and the mixture was distilled under reduced pressure to obtain 17 mg (yield: 96%) of the title compound.

reactant | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(4-piperidinobutyloxy)phenyl]thiochroman | 0.093 mmol, 18 mg | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OCCCCN1CCCCC1 | C31H37NO3S
reactant | HCl | 0.3 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(4-piperidinobutyloxy)phenyl]thiochroman hydrochloride | 17 mg, yield: 96% | Cl.OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OCCCCN1CCCCC1 | InChI=1S/C31H37NO3S.ClH/c1-31(24-9-11-25(33)12-10-24)22-36-29-21-26(34)13-16-28(29)30(31)23-7-14-27(15-8-23)35-20-6-5-19-32-17-3-2-4-18-32;/h7-16,21,30,33-34H,2-6,17-20,22H2,1H3;1H
